US05491262
Proceeding in a manner similar to that described in Example 1 above, a mixture 1.5 g of 4-dimethylaminobenzaldehyde, 5.4 g of 1,1-bis(4-dimethylaminophenyl)ethane, 100.0 ml of ethyl alcohol and 2.0 ml of glacial aacetic acid was maintained at reflux approximately forty-two hours. After cooling to ambient temperature, the reaction mixture was poured into one liter of ice water, and the resulting solid was collected by filtration and recrystallized from isopropyl alcohol to obtain 2.5 g of bis{[1,1-bis(4-dimethylaminophenyl)ethenyl]}(4-dimethylaminophenyl)methane, a white solid which melted at 215°-220° C. Significant infrared maxima appeared at 1620 cm-1 (v.s.) and 1355 cm-1. The nuclear magnetic resonance spectrum was in accord with the assigned structure. An acetone solution of the product spotted onto clay, phenolic resin and organic acid coated papers slowly developed blue-colored images. Exposure of a paper coated with the product to bromine vapor developed a dark blue image. An acetone solution of the product, chloranil and a phenolic resin was coated onto a glass plate and dried. The transmission spectrum of the coating had a significant adsorption at 715 nonometers.

reactant | 4-dimethylaminobenzaldehyde | 1.5 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 1,1-bis(4-dimethylaminophenyl)ethane | 5.4 g | CN(C1=CC=C(C=C1)C(C)C1=CC=C(C=C1)N(C)C)C | C18H24N2
solvent | ethyl alcohol | 100.0 ml | C(C)O | C2H6O
product | bis{[1,1-bis(4-dimethylaminophenyl)ethenyl]}(4-dimethylaminophenyl)methane | 2.5 g | CN(C1=CC=C(C=C1)C(=CC(C1=CC=C(C=C1)N(C)C)C=C(C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C | C45H53N5
